US08703096B2
4-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-N,N-dimethylbenzenamine (L21).
In a double necked round bottomed flask equipped with condenser and under nitrogen flow were introduced 5-chloro-2-amino-pyrazine (61 mg, 0.47 mmol), 2-bromo-4′-dimethylamino-acetophenone (170 mg, 0.71 mmol) and anhydrous acetonitrile (7 mL). The reaction mixture was refluxed for 3 hrs. After it cooled down, NaHCO3 (71 mg, 0.85 mmol) was added. The reaction was refluxed for another 6 hrs. The solvent was removed and the crude product (221 mg) was purified by FCC (hex/DCM/AcOEt=2:2:1), to afford 9 mg (yield 7%) of the product as yellow solid. 1HNMR (270 MHz; CDCl3), δ 8.82 (s, 1H, Ar—H), 8.09 (s, 1H, Ar—H), 7.822 (s, 1H, Ar—H), 7.818 (d, 3JHH=8.9 Hz, 2H, Ar—H), 6.77 (d, 3JHH=8.7 Hz, 2H, Ar—H), 3.02 (s, 6H, NCH3). m/z (CI-MS): 273 ([M+1]+), 261, 239 ([M−Cl+1]+).

reactant | 5-chloro-2-amino-pyrazine | 0.47 mmol, 61 mg | ClC=1N=CC(=NC1)N | C4H4ClN3
reactant | 2-bromo-4′-dimethylamino-acetophenone | 0.71 mmol, 170 mg | BrCC(=O)C1=CC=C(C=C1)N(C)C | C10H12BrNO
reactant | NaHCO3 | 0.85 mmol, 71 mg | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 4-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-N,N-dimethylbenzenamine | 9 mg, yield 7% | ClC=1N=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)N(C)C | C14H13ClN4
